US07759367B2
3-(2-Cyanophenyl)-5-(2-pyridyl)-1-(3-acetoxymethylphenyl)-1,2-dihydropyridin-2-one
To 56 mg of 3-(2-cyanophenyl)-5-(2-pyridyl)-1-(3-hydroxymethylphenyl)-1,2-dihydropyridin-2-one were added 1 ml of acetic anhydride and 1 ml of pyridine and the mixture was stirred at room temperature for one night. The reaction solution was concentrated in vacuo and purified by an NH silica gel chromatography (hexane-ethyl acetate system) to give 30 mg of the title compound.

reactant | 3-(2-cyanophenyl)-5-(2-pyridyl)-1-(3-hydroxymethylphenyl)-1,2-dihydropyridin-2-one | 56 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC(=CC=C1)CO)=O | C24H17N3O2
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-Cyanophenyl)-5-(2-pyridyl)-1-(3-acetoxymethylphenyl)-1,2-dihydropyridin-2-one | 30 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC(=CC=C1)COC(C)=O)=O | C26H19N3O3
